US04678793
5.0 g of 6-acetyl-3,4-dihydro-1,4,4-trimethyl-2(1H)-quinolinone were dissolved in 200 ml of benzene and, after the addition of 2.1 g of ethylene glycol and a few crystals of p-toluenesulphonic acid, the mixture was boiled under a water separator for 5 hours. After cooling, the mixture was diluted with ethyl acetate, washed with dilute sodium hydrogen carbonate solution, dried and evaporated. There were obtained 5.6 g of 3,4-dihydro-1,4,4-trimethyl-6-(2-methyl-1,3-dioxolan-2-yl)-2(1H)-quinolinone in the form of a colourless oil which solidified upon standing in a refrigerator; melting point 81°-83° C. This compound was used in the next step without further purification.

reactant | 6-acetyl-3,4-dihydro-1,4,4-trimethyl-2(1H)-quinolinone | 5.0 g | C(C)(=O)C=1C=C2C(CC(N(C2=CC1)C)=O)(C)C | C14H17NO2
reactant | ethylene glycol | 2.1 g | C(CO)O | C2H6O2
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,4-dihydro-1,4,4-trimethyl-6-(2-methyl-1,3-dioxolan-2-yl)-2(1H)-quinolinone | 5.6 g | CN1C(CC(C2=CC(=CC=C12)C1(OCCO1)C)(C)C)=O | C16H21NO3
